data/mechanisms/records/IMS8-EQT8.2f.json
{"mechanism_id": "IMS8-EQT8.2f", "species": [{"species_id": "methyl_propyl_ether_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][O+:4][CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethyl_radical", "mapped_smiles": "[CH3:1][CH2:2]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methoxymethyl_oxocarbenium", "mapped_smiles": "[CH2:3]=[O+:4][CH3:5]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methyl_propyl_ether_radical_cation"]}, {"state_id": "state_products", "species_ids": ["ethyl_radical", "methoxymethyl_oxocarbenium"]}], "steps": [{"step_id": "step_alpha", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha", "support_type": "textbook_proposed", "locator": {"page": 166, "equation": "Table 8.2", "figure": null, "panel": null, "section": "8.3"}, "confidence": 0.75, "curator_note": "Table 8.2, row 5: OE+. radical-site alpha cleavage, charge-RETENTION AB. + C=D(+). Book draws 2 arcs -- the O radical-site hook (odd electron -> forming C=O pi) and the big arc pulling one C-C sigma electron into that pi; the third hook (the other C-C electron -> departing ethyl radical) is an implicit homolysis hook, not drawn. All 3 encoded per convention. Generic (OR); instantiated R=CH3 (methyl propyl ether) -> C2H5. + CH2=O(+)CH3 oxocarbenium (m/z 45). No m/z / intensity printed."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 74.0726, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_oxo", "species_id": "methoxymethyl_oxocarbenium", "step_id": "step_alpha", "observed_mz": 45.0335, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
